********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Apr 27, 2015
*ECN S15-0949, Rev. A
*File Name: SQP90P06-07L_PS.txt and SQP90P06-07L_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SQP90P06-07L D G S  
M1 3 GX S S PMOS W= 19911044u L= 0.3u 
M2 S GX S D NMOS W= 19911044u L= 0.42u 
R1 D 3 5.040e-03 TC=5.458e-03,7.805e-06
CGS GX S 6.574e-09 
CGD GX D 1.885e-10 
RG G GY 1m 
RTCV 100 S 1e6 TC=3.411e-04,-2.704e-06
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 19911044u 
************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 NSUB = 4.565e+16 
+ KAPPA = 1.001e-02 NFS = 3.30e+11 
+ LD = 0 IS = 0 TPG = -1    )
**************************************************  
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 1.290e+16 IS = 0 TPG = -1    )
************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 2.389e-08 TNOM = 25 BV = 61
+RS = 3.848e-02 N = 1.084e+00 IS = 1.408e-12 
+EG = 1.498e+00 XTI = -8.875e+00 TRS1 = 2.706e-03
+CJO = 9.387e-11 VJ = 3.212e+00 M = 9.990e-01 ) 
.ENDS 
*************************
